US07982036B2
To a stirred solution of acetonitrile (20 mL) and DMF (0.05 mL) under N2 was added N,N-dimethylamino crotonic acid hydrochloride (0.47 g, 2.8 mmol). After 10 min this solution was cooled to 0-5° C. Oxalyl chloride (0.44 g, 3.5 mmol) was added and the reaction mixture was maintained at 0-5° C. for 30 min. It was allowed to warm to rt and stirring was continued for 2 h. It was then heated to 40° C. for 5 min and again brought to rt and stirred for 10 min to get a light greenish colored solution of dimethylaminocrotonyl chloride that was used as such for next step. To a stirred solution of N4-(6-aminopyridin-2-yl)-N6-phenylpyrimidine-4,6-diamine (0.2 g, 0.7 mmol) in NMP (10 mL) was added dropwise under N2 atmosphere at 0° C. the solution of dimethylaminocrotonyl chloride. The reaction mixture was maintained at this temperature for 30 min and was warmed to rt and stirred for 2 h. The mixture was quenched with sodium bicarbonate solution (1 mL) and was extracted with EtOAc (2×35 mL). The combined ethyl acetate extract was washed with water (20 mL) and brine (20 mL), was dried over Na2SO4 and was concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, 60-120, product was eluted at 4-6% methanol in chloroform) to give (E)-4-(dimethylamino)-N-(6-(6-(phenylamino)pyrimidin-4-ylamino)pyridine-2-yl)but-2-enamide (I-73) as a yellowish solid. 1H NMR (DMSO-d6) δ ppm: 2.24 (s, 6H), 3.13 (d, J=5.76 Hz, 2H), 6.56 (d, J=15.52 Hz, 1H), 6.80 (d, J=15.36 Hz, 1H), 6.95 (t, J=7.36 Hz, 1H), 7.11 (t, J=1.16 Hz, 1H), 7.29 (t, J=7.56 Hz, 2H), 7.58 (s, 1H), 7.65-7.7 (m, 4H), 8.31 (d, J=2.44 Hz, 1H), 9.23 (s, 1H), 9.68 (s, 1H), 10.16 (s, 1H); LCMS: m/e 390.3 (M+1).

reactant | N4-(6-aminopyridin-2-yl)-N6-phenylpyrimidine-4,6-diamine | 0.7 mmol, 0.2 g | NC1=CC=CC(=N1)NC1=NC=NC(=C1)NC1=CC=CC=C1 | C15H14N6
reactant | dimethylaminocrotonyl chloride | CN(C)C/C=C/C(=O)Cl | C6H10ClNO
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | (E)-4-(dimethylamino)-N-(6-(6-(phenylamino)pyrimidin-4-ylamino)pyridine-2-yl)but-2-enamide | CN(C/C=C/C(=O)NC1=NC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=CC=C1)C | C21H23N7O
